US05017212
2-Methoxymethylimidazo[1,2-a]pyridine
To a solution of 3.0 g of 2-chloromethylimidazo [1,2-a]pyridine in 50 ml of methanol is added 1.1 g of sodium methoxide, followed by heating under reflux for 3 hours. Methanol is distilled off under reduced pressure and chloroform is added to the residue. The resulting insoluble substance is filtered off, and the filtrate is washed with water and dried over anhydrous sodium sulfate. After distilling chloroform off, 2.9 g of the title compound is obtained as crystals.

reactant | 2-chloromethylimidazo [1,2-a]pyridine | 3.0 g | ClCC=1N=C2N(C=CC=C2)C1 | C8H7ClN2
reactant | sodium methoxide | 1.1 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-Methoxymethylimidazo[1,2-a]pyridine | COCC=1N=C2N(C=CC=C2)C1 | C9H10N2O
